US04407745
In 290 ml of dimethylformamide is dissolved 16.2 g (35 millimoles) of Z-Arg(Tos)-OH, and 3.85 ml of N-methylmorpholine is added to the solution and the mixture is cooled to -5° C. Then, 3.35 ml of ethyl chloroformate is dropped to the mixture under agitation and the mixture is stirred for 15 minutes and is then mixed with a cooled liquid formed by suspending 15.5 g (38.5 millimoles) of H-Asp(OBut)-Ser(But)-Ala-OH (having a melting point of 122° to 133° C.) in 290 ml of dimethylformamide and adding 4.3 ml of N-methylmorpholine. The resulting mixture is stirred for 3 hours, and the insoluble substances are removed by filtration. The filtrate is concentrated under reduced pressure and solidification is effects by addition of ether to obtain 26.6 g of intended glassy Z-Arg(Tos)-Asp(OBut)-Ser(But)-Ala-OH (the yield being 90%).

reactant | Z-Arg(Tos)-OH | 35 millimoles, 16.2 g | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H26N4O6S
reactant | N-methylmorpholine | 3.85 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 3.35 ml | ClC(=O)OCC | C3H5ClO2
reactant | H-Asp(OBut)-Ser(But)-Ala-OH | 38.5 millimoles, 15.5 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](C)C(=O)O | C18H33N3O7
reactant | N-methylmorpholine | 4.3 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 290 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 290 ml | CN(C=O)C | C3H7NO
product | Z-Arg(Tos)-Asp(OBut)-Ser(But)-Ala-OH | 26.6 g | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C39H57N7O12S
